US08242104B2
To a stirred suspension of 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene trifluoro acetate (300 mg, 0.61 mmol) in DMF (3.5 mL) was added potassium carbonate (290 mg, 2.1 mmol) and 2-(2-bromoethoxy)tetrahydro-2H-pyran and the mixture heated at 60° C. for 18 h before being diluted with DCM. The resultant solution was washed with saturated aqueous sodium hydrogen carbonate, water and then brine before being dried (MgSO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 8% methanol in DCM) to give 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-piperidin-4-yl}-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene as a cream solid (147 mg, 48%). 1H NMR 400 MHz (CDCl3) δ: 8.44 (1H, d, J=8.29 Hz), 7.87 (1H, s), 7.63 (1H, s), 7.04 (1H, dd, J=8.33, 1.81 Hz), 6.92 (1H, d, J=1.75 Hz), 6.01-6.00 (1H, m), 4.63 (1H, t, J=3.54 Hz), 4.46-4.45 (4H, m), 3.92-3.91 (2H, m), 3.65 (1H, m), 3.57-3.49 (1H, m), 3.15 (2H, m), 2.73 (2H, m), 2.53 (1H, m), 2.25 (2H, m), 1.87 (5H, m), 1.73-1.69 (3H, m), 1.60 (8H, m).

reactant | 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene trifluoro acetate | 0.61 mmol, 300 mg | FC(C(=O)O)(F)F.C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3
reactant | potassium carbonate | 2.1 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-piperidin-4-yl}-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 147 mg, 48% | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCN(CC3)CCOC3OCCCC3 | C28H38N6O3
